* C:\Users\Usuario\Documents\UdeM\2022-1\repos-electronica\transistores\ejemplos-clase\transistor-amplificador\bjt_ejemplo2\bjt_amp-ejemplo2.asc
RE V+ e 10k
V+ V+ 0 10
Vi Vin 0 SINE(0 0.010 1k)
Q1 c 0 e 0 PNP_ideal
RC c V- 5k
V- V- 0 -10
C1 e Vin {C_in}
C2 Vout c {C_out}
RL Vout 0 {R_Load}
.model NPN NPN
.model PNP PNP
.lib C:\Users\Usuario\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 3m 0 3u
* Analisis
.op
.model PNP_ideal PNP(BF = 100)
* Modelos
* Parametros
.param C_in=100u C_out=100u R_Load=100Meg
.backanno
.end
