* C:\Users\Usuario\Documents\UdeM\2022-1\repos-electronica\transistores\ejemplos-clase\transistor-amplificador\bjt_ejemplo2\bjt_amp-ejemplo2_DC.asc
RE V+ e 10k
V+ V+ 0 10
Q1 c 0 e 0 PNP_ideal
RC c V- 5k
V- V- 0 -10
.model NPN NPN
.model PNP PNP
.lib C:\Users\Usuario\Documents\LTspiceXVII\lib\cmp\standard.bjt
* Analisis
.op
.model PNP_ideal PNP(BF = 100)
* Modelos
.backanno
.end
